US09376418B2
A solution of 3-bromo-6-fluoropyridine (315 mg, 1.79 mmol), 1,4-diazepan-2-one (200 mg, 1.75 mmol), and triethylamine (0.269 ml, 1.93 mmol) in N,N-dimethylacetamide (3 mL) was irradiated in a microwave reactor for twenty minutes at 220° C. The reaction mixture was diluted with ethyl acetate (35 mL) and then washed with saturated aqueous sodium bicarbonate (15 mL), water (3×10 mL), and brine (15 mL). The organic layer was dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by chromatography on silica gel (0.5-8.5% methanol/dichloromethane) to afford 4-(5-bromopyridin-2-yl)-1,4-diazepan-2-one. MS ESI calc'd. for C10H13BrN3O [M+H]+ 270 and 272. found 270 and 272. 1H NMR (500 MHz, DMSO-d6): δ 8.14 (d, J=2.4 Hz, 1H), 7.68 (dd, J=9.1, 2.7 Hz, 1H), 7.48 (m, 1H), 6.70 (d, J=9.1 Hz, 1H), 4.11 (s, 2H), 3.85 (s, 2H), 3.18 (m, 2H), 1.62 (m, 2H).

reactant | 3-bromo-6-fluoropyridine | 1.79 mmol, 315 mg | BrC=1C=NC(=CC1)F | C5H3BrFN
reactant | 1,4-diazepan-2-one | 1.75 mmol, 200 mg | N1C(CNCCC1)=O | C5H10N2O
reactant | triethylamine | 1.93 mmol, 0.269 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylacetamide | 3 mL | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate | 35 mL | C(C)(=O)OCC | C4H8O2
product | 4-(5-bromopyridin-2-yl)-1,4-diazepan-2-one | BrC=1C=CC(=NC1)N1CC(NCCC1)=O | C10H12BrN3O
